US07915411B2
5-Fluoro-2-phenylsulfanyl-phenylamine
4-Fluoro-2-nitrophenol was reacted according to procedures similar to those described in Examples 6a, 6b, and 6c substituting benzenethiol for 4-mercaptophenol and 4-fluoro-2-nitrophenol for 4-methyl-2-nitro phenol to provide the title compound.

reactant | 4-Fluoro-2-nitrophenol | FC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 4-mercaptophenol | SC1=CC=C(C=C1)O | C6H6OS
reactant | 4-methyl-2-nitro phenol | CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
product | 5-Fluoro-2-phenylsulfanyl-phenylamine | FC=1C=CC(=C(C1)N)SC1=CC=CC=C1 | C12H10FNS
